US06232307B1
5-Benzyloxy-2-(3-benzyloxy-phenyl)-3-methyl-1- [4-(2-piperidin-1-yl-ethoxy)-benzyl]-1H-indole
To a solution of 1.1 g (0.00953 mol) of 5benzyloxy-2-(3-benzyloxy-phenyl-1-[4-(2-chloro-ethoxy)-benzyl]-3methyl-1H-indole (example No. 58) in 10 mL of DMF was added 1.1 mL (0.0112 mol) of piperidine, and 0.93 g (00561 mol) of potassium iodide. The reaction mixture was heated to ˜40-50° C. for 4 hours. After cooling the reaction mixture to room temperature, 150 mL of ethyl acetate were added and the mixture was washed with water (3×100 mL). The organic solution was collected, washed with saturated brine, removed, dried over magnesium sulfate, filtered and evaporated to yield 1.0 g of product of the product after purification. Mp=125-126° C.; 1H NMR (DMSO) 7.48-7.45 (d, 2 H, J=7.2 Hz), 7.41-7.35 (m, 7 H), 7.33-7.28 (m, 2 H), 7.23-7.21 (d, 1 H, J=9.0 Hz), 7.13-7.12 (d, 1 H, J=2.4 Hz), 7.06-7.03 (m, 1 H), 6.95-6.91 (m, 2 H), 6.83-6.80 (dd, 1 H, J=2.4 Hz, J=6.3 Hz), 6.75-6.70 (m, 4 H), 5.13 (s, 2 H), 5.11 (s, 2 H), 5.02 (s, 2 H), 3.93-3.90 (t, 2 H, J=6.0 Hz), 2.56-2.53 (t, 2 H, J=5.9 Hz), 2.49-2.48 (m, 4 H), 2.14 (s, 3 H), 1.46-1.40 (m, 4 H), 1.35-1.31 (m, 2 H); IR (KBr) 3400, 2900 cm−1; MS eI m/z 636 (M+); CHN calcd for C43H44H2O3+0.25 H2O.

reactant | 3-benzyloxy-phenyl-1-[4-(2-chloro-ethoxy)-benzyl]-3methyl-1H-indole | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N(C2=CC=CC=C2C1C)CC1=CC=C(C=C1)OCCCl | C31H28ClNO2
reactant | piperidine | 0.0112 mol, 1.1 mL | N1CCCCC1 | C5H11N
reactant | potassium iodide | 0.93 g | [I-].[K+]
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Benzyloxy-2-(3-benzyloxy-phenyl)-3-methyl-1- [4-(2-piperidin-1-yl-ethoxy)-benzyl]-1H-indole | 1.0 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)C1=CC(=CC=C1)OCC1=CC=CC=C1)C | C43H44N2O3
